US05859044
5-Bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic Acid Ethyl Ester
To a stirring solution of 5-bromo-1H-indole-2-carboxylic acid ethyl ester (2.68 g, 10 mmol, ICN) in dry dimethylsulfoxide (42 ml) at room temperature under nitrogen was added sodium hydride (264 mg, 11 mmol) as a slurry in hexane in four equal portions over about ten minutes. 4-Nitrobenzyl bromide (2.16 g, 10 mmol) in dry dimethylsulfoxide (12 ml) was added dropwise over about five minutes. The mixture was stirred 2 hours, poured into water (50 ml) and extracted with ethyl acetate. The solution was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was flash chromatographed on silica gel (110 g, methylene chloride) to give the title compound (3.28 g).

reactant | 5-bromo-1H-indole-2-carboxylic acid ethyl ester | 10 mmol, 2.68 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Br | C11H10BrNO2
reactant | sodium hydride | 11 mmol, 264 mg | [H-].[Na+]
reactant | 4-Nitrobenzyl bromide | 10 mmol, 2.16 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | water | 50 ml | O | H2O
solvent | dimethylsulfoxide | 42 ml | CS(=O)C | C2H6OS
solvent | hexane | CCCCCC | C6H14
solvent | dimethylsulfoxide | 12 ml | CS(=O)C | C2H6OS
product | 5-Bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic Acid Ethyl Ester | 3.28 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)Br)CC1=CC=C(C=C1)[N+](=O)[O-] | C18H15BrN2O4
